US04550105
In 250 ml of dry ether is dissolved 15.3 g of p-nitrobenzyl alcohol, followed by additon of 8.90 ml of pyridine under ice-cooling and stirring. Then, 25.3 g of α-bromoisobutylbromide is added dropwise over 50 minutes. The mixture is stirred at room temperature for 5 hours and the resultant crystalline precipitate is separated by filtration and washed with ether. The filtrate and washings are combined and 150 ml of ethyl acetate is added. The mixture is washed with dilute hydrochloric acid, water, aqueous sodium hydrogen carbonate and aqueous sodium chloride in this order, and dried over anhydrous magnesium sulfate. The solvent is then distilled off under reduced pressure and the residue is chromatographed on a silica gel column [silica gel: 600 g; eluent: chloroform-hexane (1:1)] to give 29.6 g of p-nitrobenzyl α-bromoisobutyrate as a yellow oil. This product solidifies on standing under cooling.

reactant | p-nitrobenzyl alcohol | 15.3 g | [N+](=O)([O-])C1=CC=C(CO)C=C1 | C7H7NO3
reactant | pyridine | 8.90 ml | N1=CC=CC=C1 | C5H5N
reactant | α-bromoisobutylbromide | 25.3 g | BrC(C(C)C)Br | C4H8Br2
reactant | ether | 250 ml | CCOCC | C4H10O
product | p-nitrobenzyl α-bromoisobutyrate | 29.6 g | BrC(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])(C)C | C11H12BrNO4
